US04315032
Synthesis of 3-n-butyl-2-(phenylhydroxymethyl)cyclopentenone (No. 102)
Cuprous iodide (325 mg; 1.7 mmoles) was weighed into a 50 ml flask, and the inside atmosphere of the flask was purged with argon. Anhydrous ether (20 ml) was added, and then 687 mg (3.4 mmoles; 0.85 ml) of tri-n-butylphosphine was added at room temperature. The mixture was stirred for 10 minutes. It was then cooled to -78° C., and 1.14 ml (1.7 mmoles) of n-butyllithium (as a 1.49 M hexane solution) was slowly added dropwise. The mixture was stirred at -78° C. for 15 minutes, and 194 mg (1.7 mmoles) of a boron trifluoride-ether complex was added, followed by stirring for 5 minutes. Then, a solution of 123 mg (1.5 mmoles) of 2-cyclopentenone in 5 ml of anhydrous ether was slowly added dropwise. The mixture was stirred at -78° C. for 10 minutes, at -55° C. for 30 minutes, and then at -40° C. for 20 minutes. Anhydrous tetrahydrofuran (5 ml) was added, and then a solution of 212 mg (2 mmoles) of benzaldehyde in 10 ml of anhydrous tetrahydrofuran was added. The temperature of the mixture was gradually raised to room temperature, and the product was hydrolyzed with a saturated aqueous solution of ammonium chloride, and extracted with ether. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure by an evaporator. The crude product was subjected to silica gel column chromatography (10 g of ammonia-treated silica gel; benzene as an eluent) to afford 306 mg (yield 83%, a mixture of stereoisomers having different polarities) of the captioned compound.

reactant | tri-n-butylphosphine | 3.4 mmoles, 0.85 ml, 687 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | n-butyllithium | 1.7 mmoles, 1.14 ml | C(CCC)[Li]
reactant | 2-cyclopentenone | 1.5 mmoles, 123 mg | C1(C=CCC1)=O | C5H6O
reactant | benzaldehyde | 2 mmoles, 212 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.49 M | CCCCCC | C6H14
product | 3-n-butyl-2-(phenylhydroxymethyl)cyclopentenone | yield 83% | C(CCC)C1=C(C(CC1)=O)C(O)C1=CC=CC=C1 | C16H20O2
